US08049016B2
Synthesis of 2-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-4-methyl-N-(oxazol-4-ylmethyl)thiazole-5-carboxamide
Following the procedure as describe in Example 12, making variations as required to replace (5-fluoropyridin-3-yl)methanamine with oxazol-4-ylmethanamine to react with 2-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid in place of 2-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid, the title compound was obtained as a colorless solid in 32% yield: mp 188-191° C. (dichloromethane/hexanes); 1H NMR (300 MHz, CDCl3) δ 7.86 (s, 1H), 7.66 (s, 1H), 7.29-7.25 (m, 2H), 7.07-7.01 (m, 2H), 6.21-6.17 (m, 1H), 4.51 (d, J=5.8 Hz, 2H), 4.46 (s, 2H), 4.10-4.05 (m, 2H), 3.48-3.42 (m, 2H) 2.60 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 164.1, 162.4, 160.9, 157.5, 155.3, 152.9, 151.3, 136.8, 135.8, 131.4, 131.3, 130.1, 129.9, 117.5, 115.9, 115.7, 47.3, 41.9, 41.6, 35.6, 17.2; MS (ES+) m/z 416.1 (M+1).

reactant | (5-fluoropyridin-3-yl)methanamine | FC=1C=C(C=NC1)CN | C6H7FN2
reactant | oxazol-4-ylmethanamine | O1C=NC(=C1)CN | C4H6N2O
reactant | 2-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | FC1=CC=C(CN2C(N(CC2)C=2SC(=C(N2)C)C(=O)O)=O)C=C1 | C15H14FN3O3S
product | 2-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-4-methyl-N-(oxazol-4-ylmethyl)thiazole-5-carboxamide | 32% yield | FC1=CC=C(CN2C(N(CC2)C=2SC(=C(N2)C)C(=O)NCC=2N=COC2)=O)C=C1 | C19H18FN5O3S
